US07838498B2
Preparation of ((2R,3S,4R,5R,6S)-6-(4-chloro-5-(4-ethoxybenzyl)-2-((prop-2-ynyloxy)methyl)phenyl)-3,4,5-trihydroxytetrahydro-2H-pyran-2-yl)methyl acetate (Compound CD)
To a stirred solution of (2R,3R,4R,5S,6S)-2-(acetoxymethyl)-6-(4-chloro-5-(4-ethoxybenzyl)-2-((prop-2-ynyloxy)methyl)phenyl)tetrahydro-2H-pyran-3,4,5-triyl triacetate (prepared using methods analogous to those in Example 1 and Example 5 above, 251 mg, 0.39 mmol) in THF:MeOH:H2O (2:3:1, 6.0 mL) at 15° C., was added LiOH.H2O (16.4 mg, 0.39 mmol). After stirring for 5 h at room temperature, the reaction was complete, as indicated by HPLC. The reaction mixture was concentrated and the residue was dissolved in 20 mL of ethyl acetate. The organic layer was washed with brine (20 mL), 5% KHSO4 in brine (20 mL), dried over anhydrous sodium sulfate, evaporated, and the residue was purified by preparative TLC (PE:EtOAc:MeOH=8:80:1, Rf=0.45) to afford 160 mg of title compound as a white solid (yield 79.2%; purity 99.1%, as determined by HPLC). 1H-NMR (CD3OD, 400 MHz) δ 7.48 (s, 1H), 7.40 (s, 1H), 7.12 (s, 4H), 4.85 (d, J=12.0 Hz, 1H), 4.62 (d, J=12.0 Hz, 1H), 4.51 (d, J=9.2 Hz, 1H), 4.23 (s, 2H), 4.10 (d, J=14.8 Hz, 1H), 4.05 (d, J=14.8 Hz, 1H), 3.96 (q, J=6.8 Hz, 2H), 3.88 (d, J=12.4 Hz, 1H), 3.71-3.67 (m, TH), 3.52-3.41 (m, 4H), 2.94 (s, 1H), 2.15 (s, 3H), 1.34 (t, J=6.8 Hz, 3H); LC-MS (m/z) 519 [(M+1)+], 563 [(M+45)−].

reactant | (2R,3R,4R,5S,6S)-2-(acetoxymethyl)-6-(4-chloro-5-(4-ethoxybenzyl)-2-((prop-2-ynyloxy)methyl)phenyl)tetrahydro-2H-pyran-3,4,5-triyl triacetate | C(C)(=O)O[C@@H]1[C@H](O[C@H]([C@@H]([C@H]1OC(C)=O)OC(C)=O)C1=C(C=C(C(=C1)CC1=CC=C(C=C1)OCC)Cl)COCC#C)COC(C)=O | C33H37ClO11
reactant | LiOH.H2O | 0.39 mmol, 16.4 mg | O[Li].O
solvent | THF MeOH H2O | 6.0 mL | C1CCOC1.CO.O
product | ((2R,3S,4R,5R,6S)-6-(4-chloro-5-(4-ethoxybenzyl)-2-((prop-2-ynyloxy)methyl)phenyl)-3,4,5-trihydroxytetrahydro-2H-pyran-2-yl)methyl acetate | 160 mg, yield 79.2% | C(C)(=O)OC[C@H]1O[C@H]([C@@H]([C@H]([C@@H]1O)O)O)C1=C(C=C(C(=C1)CC1=CC=C(C=C1)OCC)Cl)COCC#C | C27H31ClO8
